US04990531
1-(2-naphthvlsulphonyl)-2-pyrrolidinone
15.6 cm3 of a 1.6M solution of butyllithium in hexane is added to 2.13 g of 2-pyrrolidinone in solution in 80 cm3 of tetrahydrofuran, cooled to -10° C., maintaining the temperature between -5° C. and +5° C. After agitation at -5° C. for 25 minutes, 6.12 g of beta-naphthalene-sulphonyl chloride is added, without exceeding 0° C. The whole is then left to return to ambient temperature. The solvent is evaporated off under reduced pressure, the residue is taken up in ethyl acetate, and the lithium chloride is filtered off and after evaporating under reduced pressure, the residue is taken up in water and filtered. Finally after crystallization from isopropanol, 4 g of expected product is obtained.

reactant | butyllithium | C(CCC)[Li]
reactant | 2-pyrrolidinone | 2.13 g | N1C(CCC1)=O | C4H7NO
reactant | beta-naphthalene-sulphonyl chloride | 6.12 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 80 cm3 | O1CCCC1 | C4H8O
product | 1-(2-naphthvlsulphonyl)-2-pyrrolidinone | 4 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1C(CCC1)=O | C14H13NO3S
